US04508913
5,5-Dichloro-3,3-dimethyl-pentanoic acid-chloride
52.25 g of 5,5-dichloro-3,3-dimethyl-pentanoic acid are reacted with 150 ml of thionyl chloride, first at room temperature and thereafter while warming at 60° C. By working up the mixture by distillation, 56.5 g of 5,5-dichloro-3,3-dimethyl-pentanoic acid-chloride of boiling point 114°-115° C./15 are obtained.

reactant | 5,5-dichloro-3,3-dimethyl-pentanoic acid | 52.25 g | ClC(CC(CC(=O)O)(C)C)Cl | C7H12Cl2O2
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 5,5-Dichloro-3,3-dimethyl-pentanoic acid-chloride | ClC(CC(CC(=O)Cl)(C)C)Cl | C7H11Cl3O
